US05691384
Combine 4-benzyloxy-4'-(4-chlorobutyloxy)benzophenone (3.95 g, 10.0 mmol) and tetrahydrofuran (50 mL). Add a solution benzylmagnesium chloride (6.0 mL, 2M in tetrahydrofuran, 12 mmol). After 1 hour, cool to 0° C. and add a saturated aqueous solution of ammonium chloride and stir for 1 hour to give a solid. Filter the solid and rinse three times with tetrahydrofuran. Combine the filtrate and rinses and separate the layers. Extract the organic layer with a saturated sodium chloride solution. Dry the organic layer over MgSO4, filter, and dry in vacuo to give a 1-(4-benzyloxyphenyl)-1-(4-(4-chlorobutyloxy) phenyl)-2-phenyl ethanol: Rf =0.36 (silica gel, 30% ethyl acetate/hexane).

reactant | 4-benzyloxy-4'-(4-chlorobutyloxy)benzophenone | 10.0 mmol, 3.95 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)C2=CC=C(C=C2)OCCCCCl)C=C1 | C24H23ClO3
reactant | benzylmagnesium chloride | 12 mmol, 2M, 6.0 mL | C(C1=CC=CC=C1)[Mg]Cl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1-(4-benzyloxyphenyl)-1-(4-(4-chlorobutyloxy) phenyl)-2-phenyl ethanol | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CC1=CC=CC=C1)(O)C1=CC=C(C=C1)OCCCCCl | C31H31ClO3
